US07507740B2
Production of 2-methoxy-N-{4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}acetamide
To a mixture of 6-(4-aminophenyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine (40 mg), methoxyacetic acid (0.0145 mL) and 1-hydroxybenzotriazole monohydrate (38 mg) in N,N-dimethylformamide (1.9 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (54 mg) and triethylamine (0.079 mL) at room temperature. After stirring overnight at room temperature, the reaction mixture was diluted with dichloromethane (10 mL). The residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→ethyl acetate:methanol=85:15) and crystallized from diisopropyl ether to give the title compound (24 mg).

reactant | 6-(4-aminophenyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 40 mg | NC1=CC=C(C=C1)C1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C25H22N6O
reactant | methoxyacetic acid | 0.0145 mL | COCC(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole monohydrate | 38 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 54 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1.9 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.079 mL | C(C)N(CC)CC | C6H15N
product | 2-methoxy-N-{4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}acetamide | 24 mg | COCC(=O)NC1=CC=C(C=C1)C1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C28H26N6O3
